.title NOR lib
.include techfile130.txt


.SUBCKT NOR A B y Vdd
Mp1 y A n1 Vdd pmos w=130n l=130n
Mp2 n1 B Vdd Vdd pmos w=130n l=130n
Mn1 y A 0 0 nmos w=130n l=130n
Mn2 y B 0 0 nmos w=130n l=130n


.ENDS 2NAND

.end

