
.title Inverter lib
.include techfile130.txt

.SUBCKT INV vi vout Vdd
Mp vout vi Vdd Vdd pmos l=130n w=500n 
Mn vout vi 0   0   nmos l=130n w=250n

.ENDS INVERTER

.end

