.title transmission gate lib
.include techfile130.txt
.include INVERTER.lib


.SUBCKT TRN in out n1 vdd
X1 n1 n2 vdd INV
Mp1 out 0 in  n1   pmos w=260n l=130n
Mn1 out  n2  in  0 nmos w=130n l=130n

.ENDS TRANSMISSION_GATE

.end


